US07205433B2
L-Ala-OMe HCl salt (1.00 g, 7.16 mmol) was suspended in methyl acetate (15 ml). 2,5-Dimethylbenzenesulfonic acid (2,5-DMBS) (1.60 g, 8.59 mmol) was added, and the mixture was stirred for dissolution. This solution was concentrated under reduced pressure, methyl acetate (15 ml) was added, and the mixture was concentrated twice under reduced pressure to allow crystallization. Methyl acetate (15 ml) was added to dissolve the obtained slurry almost entirely at 50° C. This solution was stirred at room temperature to give a slurry. This slurry was cooled overnight in a refrigerator, and the crystals were separated and dried to give 1.87 g of L-alanine methyl ester 2,5-dimethylbenzenesulfonate (L-Ala-OMe 2,5-DMBS salt) dry crystals (L-Ala-OMe 2,5-DMBS salt content 98.9%, 6.23 mmol, yield 87.0%).

reactant | L-Ala-OMe HCl | 7.16 mmol, 1.00 g | N[C@@H](C)C(=O)OC.Cl
reactant | 2,5-Dimethylbenzenesulfonic acid | 8.59 mmol, 1.60 g | CC1=C(C=C(C=C1)C)S(=O)(=O)O | C8H10O3S
solvent | methyl acetate | 15 ml | C(C)(=O)OC | C3H6O2
product | L-alanine methyl ester 2,5-dimethylbenzenesulfonate | 1.87 g, yield 87.0% | CC1=C(C=C(C=C1)C)S(=O)(=O)O.COC([C@@H](N)C)=O | InChI=1S/C8H10O3S.C4H9NO2/c1-6-3-4-7(2)8(5-6)12(9,10)11;1-3(5)4(6)7-2/h3-5H,1-2H3,(H,9,10,11);3H,5H2,1-2H3/t;3-/m.0/s1
